US04342780
Under an atmosphere of nitrogen, 3-benzyloxy-4-methoxybenzyl magnesium chloride is prepared from 3-benzyloxy-4-methoxybenzylchloride (C. Schopf and L. Winterhalder, Ann. 544, 62 (1940) (22.0 g, 84 mmol) and magnesium turnings (4.1 g) in tetrahydrofuran (THF) (100 ml) at room temperature (about 2 hours). After cooling to -30° C., a solution of fluoroacetonitrile (4.94 g) in THF (40 ml) is added dropwise, maintaining the temperature between -30° C. and -40° C. Stirring is continued at this temperature for another 30 minutes, then the mixture is poured into a solution of sodium cyanide (12.3 g) and ammonium chloride (17.9 g) in water (150 ml), previously cooled with ice. After stirring for 30 minutes, the mixture is saturated with sodium chloride whereupon the phases separate. After extracting the aqueous phase two more times with diethyl ether, the combined THF and ether phases are dried (Na2SO4) and evaporated to give the crude aminonitrile (25.9 g) as a brown oil. The oil is dissolved in ether and treated with HCl gas to prepare the hydrochloride as an oil. This oil is recrystallized twice from ethanol/ether to give 2-fluoromethyl-2-amino-3-(3'-benzyloxy-4'-methoxyphenyl)propionitrile as the hydrochloride as a slightly colored solid; NMR (CD3OC): 3.47 ppm (3H, s), 4.32 ppm (2H, d, JH--F =46 Hz), 4.73 ppm (2H, s), 6.60 ppm (3H, m), 6.97 ppm (5H, m).

reactant | 3-benzyloxy-4-methoxybenzylchloride | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1OC | C15H15ClO2
reactant | magnesium | 4.1 g | [Mg] | Mg
reactant | fluoroacetonitrile | 4.94 g | FCC#N | C2H2FN
reactant | sodium cyanide | 12.3 g | [C-]#N.[Na+]
reactant | ammonium chloride | 17.9 g | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 3-benzyloxy-4-methoxybenzyl magnesium chloride | C(C1=CC=CC=C1)OC=1C=C(C[Mg]Cl)C=CC1OC | InChI=1S/C15H15O2.ClH.Mg/c1-12-8-9-14(16-2)15(10-12)17-11-13-6-4-3-5-7-13;;/h3-10H,1,11H2,2H3;1H;/q;;+1/p-1
